US06956036B1
Step A: 2-Hydrazino-4-methoxy-benzoic Acid
A suspension of 2-acetylamino-4-methoxy-benzoic acid (15 g, 73.7 mmol) in water (75 mL) was cooled to −5° C. and conc HCl (150 mL) was added followed by cooling to −5°. To this mixture was added a solution of NaNO2 (5.43 g, 77.4 mmol) in water (50 mL) that had been cooled to −5°; this solution was added at such a rate so as to maintain the temperature of the reaction mixture between −5° and 0° C. The reaction mixture was stirred for 10 min and the clear solution was added to a solution of stannous chloride (41.9 g, 221 mmol) in conc HCl (150 mL) that had been cooled to −20° C. This addition was conducted so as to maintain a temperature of −20° to −10° C. for the reaction mixture, followed by stirring the mixture for 1.5 h at −20° C. The solid that formed was collected by filtration, washed with chilled EtOH, and dried to give an off-white solid (10.8 g): APCl/LCMS m/z 183 (M+H)+.

reactant | 2-acetylamino-4-methoxy-benzoic acid | 73.7 mmol, 15 g | C(C)(=O)NC1=C(C(=O)O)C=CC(=C1)OC | C10H11NO4
reactant | NaNO2 | 77.4 mmol, 5.43 g | N(=O)[O-].[Na+]
solvent | water | 75 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | HCl | 150 mL | Cl | ClH
solvent | HCl | 150 mL | Cl | ClH
product | 2-Hydrazino-4-methoxy-benzoic Acid | 10.8 g | N(N)C1=C(C(=O)O)C=CC(=C1)OC | C8H10N2O3
